* source MAIN
U_PWM         STIM(1,1)
+ $G_DPWR $G_DGND
+ N03124 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ repeat forever  
+ +167us 1  
+ +167us 0 
+ endrepeat  
M_M1         N040710 N03124 N04240 N04240 IRF9140
M_M2         N04240 N03124 0 0 IRF150
V_V1         N040710 0 5Vdc
R_R1         0 N03124  2k TC=0,0 
