* source MAIN
R_R1         N00277 N00172  5k TC=0,0 
X_U1A         N00172 N00477 VCC+ VCC- N00494 TL074/301/TI
R_R2         N00172 N00281  5k TC=0,0 
V_V1         N00277 0 0Vdc
V_V2         N00281 0 5Vdc
V_V4         0 VCC- 12Vdc
R_R3         N00477 N00494  5k TC=0,0 
R_R4         0 N00477  5k TC=0,0 
V_V3         VCC+ 0 12Vdc
